US08445509B2
Production of tert-butyl {3-fluoro-4-[(5-nitropyridin-2-yl)oxy]phenyl}carbamate
To a solution of tert-butyl (3-fluoro-4-hydroxyphenyl)carbamate (17.2 g, 75.7 mmol) in dimethyl sulfoxide (100 mL) were added 2-chloro-5-nitropyridine (10 g, 63.1 mmol) and cesium carbonate (30.8 g, 94.6 mmol), and the mixture was stirred at room temperature for 4 hr. Water was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with hexane/ethyl acetate (=5/1) and collected by filtration to give the title compound (17.0 g, 77%).

reactant | tert-butyl (3-fluoro-4-hydroxyphenyl)carbamate | 75.7 mmol, 17.2 g | FC=1C=C(C=CC1O)NC(OC(C)(C)C)=O | C11H14FNO3
reactant | 2-chloro-5-nitropyridine | 63.1 mmol, 10 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | cesium carbonate | 94.6 mmol, 30.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | tert-butyl {3-fluoro-4-[(5-nitropyridin-2-yl)oxy]phenyl}carbamate | 17.0 g, 77% | FC=1C=C(C=CC1OC1=NC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H16FN3O5
